US08039469B2
Step 1: Preparation of 1-(4,6-dichloro-1,3,5-triazin-2-yl)piperidin-4-one
To magnetically stirred ice-water (72 mL) was added a solution of cyanuric chloride (2.2 g, 12 mmol) in acetone (48 mL), followed by piperidone monohydrate hydrochloride (1.8 g, 12 mmol) as a suspension in acetone (20 mL) and water (10 mL). To the mixture was added a suspension of sodium hydrogen carbonate (2.2 g, 24 mmol) in water (25 mL). The mixture was stirred at 0° C. for two hours. The title compound was collected by filtration, washed with water, and dried under vacuum.

reactant | cyanuric chloride | 12 mmol, 2.2 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | piperidone monohydrate hydrochloride | 12 mmol, 1.8 g | Cl.O.N1C(CCCC1)=O
reactant | sodium hydrogen carbonate | 24 mmol, 2.2 g | C(O)([O-])=O.[Na+]
solvent | acetone | 48 mL | CC(=O)C | C3H6O
solvent | acetone | 20 mL | CC(=O)C | C3H6O
solvent | water | 10 mL | O | H2O
solvent | water | 25 mL | O | H2O
product | 1-(4,6-dichloro-1,3,5-triazin-2-yl)piperidin-4-one | ClC1=NC(=NC(=N1)Cl)N1CCC(CC1)=O | C8H8Cl2N4O
